US08193199B2
Prepared according to Procedure H using (8-chloro-2-(2-chlorophenyl)quinolin-3-yl)methanamine (0.100 g, 0.33 mmol), 4-chloro-2-methoxy-pyrrolo[2,3-d]pyrimidine (0.061 g, 0.33 mmol, 1 eq) and DIEA (0.07 mL, 0.4 mmol, 1.2 eq) in ethanol (3 mL). N-((8-Chloro-2-(2-chlorophenyl)quinolin-3-yl)methyl)-2-methoxy-7H-pyrrolo[2,3-d]pyrimidin-4-amine [PI3Kδ IC50=5420 nM] was obtained after purification as a tan solid. 1H NMR (400 MHz, DMSO-d) δ ppm 11.28 (1 H, s), 8.37 (1H, s), 8.03 (1H, dd, J=8.4, 1.0 Hz), 7.94-7.99 (1H, m), 7.94 (1H, dd, J=7.6, 1.4 Hz), 7.40-7.65 (5H, m), 6.88 (1H, dd, J=3.3, 2.2 Hz), 6.47 (1H, s), 4.59 (2H, s), 3.67 (3H, s) Mass Spectrum (ESI) m/e=450.1 and 452.0 (M+1)

reactant | (8-chloro-2-(2-chlorophenyl)quinolin-3-yl)methanamine | 0.33 mmol, 0.100 g | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)Cl)CN | C16H12Cl2N2
reactant | 4-chloro-2-methoxy-pyrrolo[2,3-d]pyrimidine | 0.33 mmol, 0.061 g, 1 eq | ClC1=C2C(NC(=N1)OC)=NC=C2 | C7H6ClN3O
reactant | DIEA | 0.4 mmol, 0.07 mL, 1.2 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | N-((8-Chloro-2-(2-chlorophenyl)quinolin-3-yl)methyl)-2-methoxy-7H-pyrrolo[2,3-d]pyrimidin-4-amine | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)Cl)CNC=1C2=C(N=C(N1)OC)NC=C2 | C23H17Cl2N5O
